US07897788B2
A-c) 2-Cyano-3-(1-ethoxycarbonylmethyl-1H-indol-3-yl)-acrylic acid
To a stirred solution of Precursor A (1-ethoxycarbonylmethyl-3-pyrrolidin-1-yl-methylene-3H-indolium bromide, 4.0 g, 10.8 mmol) and tert-butyl cyanoacetate (15.0 g, 10.8 mmol) in chloroform (100 ml) was added dropwise a solution of sodium ethylate (0.74 g, 10.8 mmol) in dry EtOH (40 ml). The reaction mixture was kept stirring at rt overnight, then diluted with EtOAc (60 ml) and water (30 ml), acidified to pH 3 by adding 1N aqueous HCl. After phase separation, the aqueous phase was extracted twice with EtOAc. The combined organic layers were washed with water and brine, dried over Na2SO4, and the solvent removed under reduced pressure. The residue was dissolved in dichloromethane (20 ml) and treated with trifluoroacetic acid (8.3 ml, 108 mmol) at rt for 4 h. The volatiles were removed under reduced pressure and the residue was azeotoped three times with toluene, then re-crystallized from EtOAc affording subtitle compound (3.15 g) as a yellow solid in 97% yield: tR (LC-2) 1.98 min; ESI-MS(+): m/z 324.35 [M+Na]+ (calcd 298.29 for C16H14N2O4).

reactant | 1-ethoxycarbonylmethyl-3-pyrrolidin-1-yl-methylene-3H-indolium bromide | [Br-].C(C)OC(=O)C[NH+]1C(C(C2=CC=CC=C12)N1CCCC1)=C
reactant | tert-butyl cyanoacetate | 10.8 mmol, 15.0 g | C(#N)CC(=O)OC(C)(C)C | C7H11NO2
reactant | sodium ethylate | 10.8 mmol, 0.74 g | CC[O-].[Na+]
reactant | HCl | 1N | Cl | ClH
reactant | trifluoroacetic acid | 108 mmol, 8.3 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | EtOH | 40 ml | CCO | C2H6O
solvent | EtOAc | 60 ml | CCOC(=O)C | C4H8O2
solvent | water | 30 ml | O | H2O
product | 2-Cyano-3-(1-ethoxycarbonylmethyl-1H-indol-3-yl)-acrylic acid | 97% yield | C(#N)C(C(=O)O)=CC1=CN(C2=CC=CC=C12)CC(=O)OCC | C16H14N2O4
